US07399759B2
2-(2-Morpholinyl-4-pyridyl)-4H-1,3-benzothiazine-4-one
Methyl thiosalicylate (0.49 g, 2.9 mmol) and 2-morpholinylisonicotinonitrile (0.38 g, 2.0 mmol) were dissolved in toluene (2.0 ml), and triethylamine (0.48 ml, 3.4 mmol) was added thereto. The reaction mixture was refluxed for 14 hrs. After cooling, the precipitated crystals were collected by filtration and recrystallized from ethanol. The obtained crystals were recrystallized from ethyl acetate again to give the titled compound (0.16 g, 25%) as white crystals.

reactant | Methyl thiosalicylate | 2.9 mmol, 0.49 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | 2-morpholinylisonicotinonitrile | 2.0 mmol, 0.38 g | N1(CCOCC1)C=1C=C(C#N)C=CN1 | C10H11N3O
reactant | triethylamine | 3.4 mmol, 0.48 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 2.0 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-Morpholinyl-4-pyridyl)-4H-1,3-benzothiazine-4-one | 0.16 g, 25% | N1(CCOCC1)C1=NC=CC(=C1)C=1SC2=C(C(N1)=O)C=CC=C2 | C17H15N3O2S
